US04654343
N-2-Propynyl-N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide
A mixture of 3.0 g of N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide, 0.6 g of sodium hydride (50% in oil), 250 ml of dimethylformamide and 1.38 ml of propargyl bromide was reacted as described in Example 5, giving 1.77 g of the desired product as orange crystals, mp 195°-198° C.

reactant | N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide | 3.0 g | N=1N=CN2N=C(C=CC21)C=2C=C(C=CC2)NC(C)=O | C13H11N5O
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | propargyl bromide | 1.38 ml | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | N-2-Propynyl-N-[3-(1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]acetamide | 1.77 g | C(C#C)N(C(C)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C=NN2 | C16H13N5O
